US07767674B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(1-(4-methylsulfonyl-benzoyl)-piperidin-4-yl)-urea
Nitrogen gas is bubbled through a solution of (4-amino-piperidin-1-yl)-(4-methylsulfonyl-phenyl)-methanone (141.6 mg, 0.50 mmol) and (5-tert-butyl-2-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester (204.8 mg, 0.51 mmol) in DMSO (2 mL) for 2 minutes. Next, N,N-diisopropylethylamine (0.20 mL) is added. The reaction mixture is stirred at 60° C. for 6 hours. The crude product is purified on a silica gel chromatography with ethyl acetate to give a white solid (261.2 mg, 97.2%, ES+(m/z) 538.3 [M+H]).

reactant | (4-amino-piperidin-1-yl)-(4-methylsulfonyl-phenyl)-methanone | 0.50 mmol, 141.6 mg | NC1CCN(CC1)C(=O)C1=CC=C(C=C1)S(=O)(=O)C | C13H18N2O3S
reactant | (5-tert-butyl-2-tolyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 0.51 mmol, 204.8 mg | ClC(COC(NC=1N(N=CC1)C1=C(C=C(C=C1)C(C)(C)C)C)=O)(Cl)Cl | C17H20Cl3N3O2
reactant | N,N-diisopropylethylamine | 0.20 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-3-(1-(4-methylsulfonyl-benzoyl)-piperidin-4-yl)-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1CCN(CC1)C(C1=CC=C(C=C1)S(=O)(=O)C)=O | C28H35N5O4S
